US07259162B2
Preparation of 1,3-benzothiazol-2-yl(2-chloro-4-pyrimidinyl)-acetonitrile (1)
To a stirred suspension of NaH (60% in oil, 9.2 g, 0.23 mol) in dry THF (200 ml) was added drop wise under inert atmosphere a solution of 1,3-benzothiazol-2yl-acetonitrile (20 g, 0.15 mol) in dry THF (200 ml). After 1 h30 stirring at r.t., a solution of 2,4-dichloropyrimidine (17.1 g, 0.15 mol) in dry THF (200 ml) was added dropwise. The reaction mixture was allowed to stir under inert atmosphere at r.t. until complete disappearance of the starting material. The reaction was quenched by addition of water and the THF was evaporated. Water was added and the suspension was slightly acidified with aqueous HCl 1M. The precipitate obtained was filtered off and washed thoroughly with water until neutral then with hexane to remove the oil. The crude solid was dried under vacuum at 40° C., affording 28 g (84%) of the title compound as a light brown powder: mp 246° C. dec.; MS: 286.8 (M+1); HPLC (Conditions a, 268 nm) 97%, rt.5.66 min; 1HNMR (DMSO-d6) δ 13.25 (br s, 1H, exchangeable), 8.09 (d, J=4.14 Hz, 1H), 7.90 (d, J=7.53 Hz, 1H), 7.61 (d, J=7.92 Hz, 1H), 7.39-7.34 (m, 1H), 7.20-7.15 (m, 1H), 6.96 (br d, 1H).

reactant | NaH | 0.23 mol, 9.2 g | [H-].[Na+]
reactant | 1,3-benzothiazol-2yl-acetonitrile | 0.15 mol, 20 g | S1C(=NC2=C1C=CC=C2)CC#N | C9H6N2S
reactant | 2,4-dichloropyrimidine | 0.15 mol, 17.1 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1,3-benzothiazol-2-yl(2-chloro-4-pyrimidinyl)-acetonitrile | 28 g, 84% | S1C(=NC2=C1C=CC=C2)C(C#N)C2=NC(=NC=C2)Cl | C13H7ClN4S
